US05179117
Preparation of N2-[4-[4,5-bis(4-methoxyphenyl)-1H-imidazol-2-ylthio]-1-oxobutyl]-L-lysine, methyl ester hydrobromide
The N2-[4-[4,5-bis(4-methoxyphenyl)-1H-imidazol-2-ylthio]-1-oxobutyl]-N6-[(phenylmethoxy)carbonyl]-L-lysine, methyl ester (1.60 g, 0.0023 mol) was dissolved in hydrogen bromide 30 wt. % solution in acetic acid (20 ml) under a nitrogen atmosphere at ambient temperature. The reaction mixture was stirred for 1 hour, and diluted with ethyl ether to precipitate a gum. This residue was triturated with ethyl ether to give the title compound (1.58 g, 0.00224 mol, 95% yield) as an off white powder, mp 165°-70°. 1H NMR (DMSO-d6) δ8.38 (d, 1H), 7.80-7.70(bs, 3H), 7.39(d, 4H), 7.03(d, 4H), 4.26-4.23(m, 1H), 3.79(s, 6H), 3.6(s, 3H), 3.30-3.26(t, 2H), 2.79-2.73(m, 2H), 2.36-2.31(t, 2H), 1.93-1.86(m, 2H), 1.70-1.31(m, 6H).

reactant | N2-[4-[4,5-bis(4-methoxyphenyl)-1H-imidazol-2-ylthio]-1-oxobutyl]-N6-[(phenylmethoxy)carbonyl]-L-lysine, methyl ester | 0.0023 mol, 1.60 g | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)SCCCC(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)OC | C36H42N4O7S
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | ethyl ether | C(C)OCC | C4H10O
product | N2-[4-[4,5-bis(4-methoxyphenyl)-1H-imidazol-2-ylthio]-1-oxobutyl]-L-lysine, methyl ester hydrobromide | 0.00224 mol, 1.58 g, 95% yield | Br.COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)SCCCC(=O)N[C@@H](CCCCN)C(=O)OC | InChI=1S/C28H36N4O5S.BrH/c1-35-21-13-9-19(10-14-21)25-26(20-11-15-22(36-2)16-12-20)32-28(31-25)38-18-6-8-24(33)30-23(27(34)37-3)7-4-5-17-29;/h9-16,23H,4-8,17-18,29H2,1-3H3,(H,30,33)(H,31,32);1H/t23-;/m0./s1
